US05003106
1-[(4-Butylphenyl)methyl]-1-(6-chlorohexyl)-3-(2,4,6-trichlorophenyl)urea
A mixture of 1.9 g of 1-[(4-butylphenyl)methyl]-1-[6-[(methylsulfonyl)oxy]hexyl]-3-(2,4,6-trichlorophenyl)urea, 0.6 g of potassium chloride, and 3.0 ml of dried dimethyl sulfoxide was heated at an oil bath temperature of 60°-70° C. for 20 hours. The extraction and chromatography procedures of Example 521 were followed to give 1.1 g of the desired product as a colorless oil.

reactant | 1-[(4-butylphenyl)methyl]-1-[6-[(methylsulfonyl)oxy]hexyl]-3-(2,4,6-trichlorophenyl)urea | 1.9 g | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1Cl)Cl)Cl)CCCCCCOS(=O)(=O)C | C25H33Cl3N2O4S
reactant | potassium chloride | 0.6 g | [Cl-].[K+]
solvent | dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
product | 1-[(4-Butylphenyl)methyl]-1-(6-chlorohexyl)-3-(2,4,6-trichlorophenyl)urea | 1.1 g | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1Cl)Cl)Cl)CCCCCCCl | C24H30Cl4N2O
